US04197249
1,4-Bis[2-[N-(2-hydroxyethyl)trifluoroacetamido]ethylamino]-5,8-dihydroxyanthraquinone
A suspension of 1.50 g. of 1,4-bis[2-(2-hydroxyethylamino)ethylamino]-5,8-dihydroxyanthraquinone in 75 ml. of ethyl trifluoroacetate and 75 ml. of methanol is stirred for 10 minutes. Evaporation of the resulting solution in vacuo at 30° C. leaves a residue which is washed and macerated with methylene chloride, giving 2.11 g. of blue-black solid, m.p. 162° C.

reactant | 1,4-bis[2-(2-hydroxyethylamino)ethylamino]-5,8-dihydroxyanthraquinone | OCCNCCNC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)O)=O)NCCNCCO | C22H28N4O6
reactant | ethyl trifluoroacetate | FC(C(=O)OCC)(F)F | C4H5F3O2
solvent | methanol | CO | CH4O
product | 1,4-Bis[2-[N-(2-hydroxyethyl)trifluoroacetamido]ethylamino]-5,8-dihydroxyanthraquinone | OCCN(C(C(F)(F)F)=O)CCNC1=CC=C(C=2C(C3=C(C=CC(=C3C(C12)=O)O)O)=O)NCCN(C(C(F)(F)F)=O)CCO | C26H26F6N4O8
